US06172057B2
To a stirred solution of (4-methoxy-benzenesulfonyl)-acetic acid ethyl ester (5.16 g, 20 mmol), isoprenyl bromide (3.0 g, 20 mmol) and 18-Crown-6 (500 mg) in acetone (250 ml) was added K2CO3 (10 gms, excess) and the mixture refluxed foe 24 hours. At the end, the reaction mixture was filtered and the acetone layer was concentrated. The residue obtained was extracted with chloroform, washed well with water, dried over anhydrous MgSO4, filtered and concentrated. The product obtained was purified by silica-gel column chromatography, eluting with 30% ethy acetate: hexane. The product 2-(4-methoxy-benzenesulfonyl)-5-methyl-hex-4-enoic acid ethyl ester was isolated as a colourless oil. Yield: 3.0 g, 93%.

reactant | (4-methoxy-benzenesulfonyl)-acetic acid ethyl ester | 20 mmol, 5.16 g | C(C)OC(CS(=O)(=O)C1=CC=C(C=C1)OC)=O | C11H14O5S
reactant | isoprenyl bromide | 20 mmol, 3.0 g | C(=CC(C)=C)Br | C5H7Br
reactant | 18-Crown-6 | 500 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | K2CO3 | 10 gms | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 2-(4-methoxy-benzenesulfonyl)-5-methyl-hex-4-enoic acid ethyl ester | C(C)OC(C(CC=C(C)C)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C16H22O5S
